US04966913
m-Toluoyl cyanide was prepared according to the general procedure reported by G. A. Olah et al. [supra]. Under dry conditions, 2.4170 g of m-toluoyl chloride (99%, Aldrich) (15.63 mmol), 40 mL of methylene chloride, freshly distilled from phosphorus pentoxide under nitrogen, and 2.4 mL of trimethylsilyl cyanide (18 mmol) were added to a 100-mL round bottom flask. To this solution 0.39 mL of tin (IV) chloride (3.3 mmol) was added. On addition of the tin (IV) chloride the color of the solution changed from clear to yellow. The reaction mixture was stirred for 2 hr at room temperature. After 2 hr of stirring, the color of the solution was dark brown. The reaction was quenched with 120 mL of ice-cold water and then extracted with two 120 mL portions of methylene chloride. The methylene chloride extracts were combined, washed with two 120-mL portions of ice-cold water, dried with MgSo4, and filtered. The methylene chloride was removed by rotary evaporation to yield 2.125 g of a dark brown oil. This oil was distilled at 45°-48° C. (0.2 mm) to yield 1.410 g (62%) of m-toluoyl cyanide as a white solid: IR (CCl4) (partial) 2220, 1685, 1600, 1580 cm-1.

reactant | m-toluoyl chloride | 15.63 mmol, 2.4170 g | C1(=CC(=CC=C1)C(=O)Cl)C | C8H7ClO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | trimethylsilyl cyanide | 18 mmol, 2.4 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | tin (IV) chloride | 3.3 mmol, 0.39 mL | [Sn](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | m-Toluoyl cyanide | C1(=CC(=CC=C1)C(=O)C#N)C | C9H7NO
